US08802864B2
a) 4-(4-bromo-3-hydroxyphenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one
To a round bottom flask, 4-[4-bromo-3-(methyloxy)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (0.349 mmol) was dissolved in dichloromethane (3.5 mL) and cooled to 0° C. Boron tribromide (2.443 mmol) was added to the solution slowly, which was then allowed to warm to room temperature. The reaction was stirred for 1 h, and analysis by LCMS indicated complete conversion to desired product. The reaction was poured into a reparatory funnel and partitioned with saturated aq sodium bicarbonate. The aqueous layer was extracted with dichloromethane (3×) and the combined organic layers were dried over Na2SO4, filtered, and concentrated to afford the title product as a tan solid (110 mg, 77%). MS(ES)+ m/e 407.1, 408.9 [M+H]+.

reactant | 4-[4-bromo-3-(methyloxy)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.349 mmol | BrC1=C(C=C(C=C1)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1CC1)=O)OC | C18H21BrN4O3
reactant | Boron tribromide | 2.443 mmol | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 3.5 mL | ClCCl | CH2Cl2
product | 4-(4-bromo-3-hydroxyphenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | BrC1=C(C=C(C=C1)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1CC1)=O)O | C17H19BrN4O3
